US08026257B2
(±)-1-(5-Fluoro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-yl)ethyl 2,2,2-trichloroacetimidate.
(±)-1-(5-Fluoro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethanol (1.58 g, 5.09 mmol) was dissolved in dichloromethane (10 mL), cooled to 0° C. and treated with 1,8-diazabicyclo(5.4.0)undec-7-ene (153 μL, 1.018 mmol). The reaction was stirred for 10 min and treated with trichloroacetonitrile (5.1 mL, 50.9 mmol) dropwise over 10 min. The reaction was stirred at room temperature for 2 h and concentrated. The resulting residue was dissolved in diethyl ether. The resulting solution was decanted to separate it from the resulting dark tar which formed. The ethereal was concentrated to give 2.247 g (97%). 1H-NMR (CDCl3, 300 MHz) δ 8.35 (s, 1H), 8.03 (s, 1H), 7.16 (m, 1H), 6.63 (q, J=6.0 Hz, 1H), 5.68 (s, 2H), 3.62 (m, 2H), 1.78 (d, J=6.0 Hz, 3H), 0.89-0.94 (m, 2H), −0.05 (s, 9H).

reactant | (±)-1-(5-Fluoro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethanol | 5.09 mmol, 1.58 g | FC1=CC2=CN(N=C2C(=C1)C(C)O)COCC[Si](C)(C)C | C15H23FN2O2Si
reactant | 1,8-diazabicyclo(5.4.0)undec-7-ene | 1.018 mmol, 153 μL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | trichloroacetonitrile | 50.9 mmol, 5.1 mL | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (±)-1-(5-Fluoro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-yl)ethyl 2,2,2-trichloroacetimidate | ClC(C(OC(C)C1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)F)=N)(Cl)Cl | C17H23Cl3FN3O2Si
